US05006520
In 20 ml of dimethylformamide were suspended 6.0 g of 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine and 4.1 g of potassium carbonate. While the mixture was stirred under heating at 50° C., 3.9 g of 4-chlorobenzylchloride dissolved in 5 ml of toluene was added. After the mixture was stirred at 50° C. for 1 hour, the mixture was extracted with toluene-water. The organic layer was concentrated. By adding maleic acid to the residue, the salt was obtained. The obtained crude crystals were recrystallized from ethanol to give 4.5 g of 1-(4-chlorobenzyl)-3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine·maleate, m.p. 136°-138° C.

reactant | 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine | 6.0 g | CN(CCCOC1=CC=C(C=C1)C1=NNC2=NC=CC=C21)C | C17H20N4O
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorobenzylchloride | 3.9 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorobenzyl)-3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine·maleate | 4.5 g | ClC1=CC=C(CN2N=C(C=3C2=NC=CC3)C3=CC=C(C=C3)OCCCN(C)C)C=C1.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C24H25ClN4O.C4H4O4/c1-28(2)15-4-16-30-21-12-8-19(9-13-21)23-22-5-3-14-26-24(22)29(27-23)17-18-6-10-20(25)11-7-18;5-3(6)1-2-4(7)8/h3,5-14H,4,15-17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
